US06903239B2
Preparation of 6-hydroxy-2,3,4-trifluoro-N,N-dimethylbenzylamine
400 g of 3,4,5-trifluorophenol are initially charged in 359 ml of 40% aqueous dimethylamine solution and cooled to 0° C. At 0-5° C., 243 ml of 37% aqueous formaldehyde solution are added dropwise within 90 min. Subsequently, the mixture is stirred at room temperature for 20 hours. The mixture is admixed with 600 ml of water and 500 ml of dichloromethane. The organic phase is removed, the aqueous phase is extracted once with dichloromethane, the combined organic phases are dried and the solvent is distilled off under reduced pressure. The crude product is taken up in 500 ml of water and adjusted to pH 1-2 with cooling in an ice bath using dilute hydrochloric acid. The acidic solution is extracted once with dichloromethane and subsequently adjusted to pH 8-9 with cooling in an ice bath using dilute sodium hydroxide solution. The alkaline reaction solution is extracted three times with dichloromethane, the combined organic phases are washed once with water and dried, and the solvent is removed under reduced pressure. The crude product is subsequently fractionally distilled under reduced pressure. 305 g (55% of theory) of a light yellow liquid having a boiling point of 96° C. at 10 mbar are obtained.

reactant | 3,4,5-trifluorophenol | 400 g | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | formaldehyde | 243 ml | C=O | CH2O
reactant | water | 600 ml | O | H2O
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | dimethylamine | 359 ml | CNC | C2H7N
product | 6-hydroxy-2,3,4-trifluoro-N,N-dimethylbenzylamine | OC1=CC(=C(C(=C1CN(C)C)F)F)F | C9H10F3NO
